US08729312B2
21.79 g (112.2 mmol) of 2-acetoxymethoxy-benzaldehyde and 100 ml (900 mmol) of 2-methyl-2-butene are diluted in 400 ml of tert-butanol. A solution containing 41 g (337 mmol) of sodium hydrogen phosphate and 35 g (393 mmol) of sodium chlorite in 100 ml of water is added dropwise to the reaction mixture, which is stirred for 2 hours at room temperature. The mixture is evaporated under reduced pressure and the residue is dissolved in dichloromethane. The organic phase is washed with water, dried over magnesium sulphate, filtered and concentrated. The white solid obtained is precipitated in heptane at 0° C. The precipitate is filtered, then rinsed with heptane and dried. 14.8 g of 2-acetoxymethoxy-benzoic acid is obtained in the form of white powder at a yield of 63%.

reactant | 2-acetoxymethoxy-benzaldehyde | 112.2 mmol, 21.79 g | C(C)(=O)OCOC1=C(C=O)C=CC=C1 | C10H10O4
reactant | 2-methyl-2-butene | 900 mmol, 100 ml | CC(C)=CC | C5H10
reactant | sodium hydrogen phosphate | 337 mmol, 41 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | sodium chlorite | 393 mmol, 35 g | Cl(=O)[O-].[Na+]
solvent | tert-butanol | 400 ml | C(C)(C)(C)O | C4H10O
solvent | water | 100 ml | O | H2O
product | 2-acetoxymethoxy-benzoic acid | 14.8 g, yield of 63% | C(C)(=O)OCOC1=C(C(=O)O)C=CC=C1 | C10H10O5
